data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "ZnCl2"}], "steps": [{"reactants": "COc1ccc(NN=CCc2ccccc2)cc1F.Cl[Zn]Cl", "products": "COc1ccc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])cc1F"}, {"reactants": "COc1ccc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])cc1F", "products": "COc1ccc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])cc1F.[H+]"}, {"reactants": "COc1ccc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])cc1F", "products": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2F)C(=N)C=C1"}, {"reactants": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2F)C(=N)C=C1", "products": "COc1cc(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c(N)cc1F"}, {"reactants": "COc1cc(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c(N)cc1F", "products": "COc1cc2c(cc1F)[NH2+]C([N-][Zn-]([Cl])[Cl])C2c1ccccc1"}, {"reactants": "COc1cc2c(cc1F)[NH2+]C([N-][Zn-]([Cl])[Cl])C2c1ccccc1.[H+]", "products": "COc1cc2c(cc1F)NC([NH2+][Zn-]([Cl])[Cl])C2c1ccccc1"}, {"reactants": "COc1cc2c(cc1F)NC([NH2+][Zn-]([Cl])[Cl])C2c1ccccc1", "products": "COc1cc2c(cc1F)[NH+]=CC2c1ccccc1.N[Zn-](Cl)Cl"}, {"reactants": "COc1cc2c(cc1F)[NH+]=CC2c1ccccc1", "products": "COc1cc2c(-c3ccccc3)c[nH]c2cc1F.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "Cc1cc(F)cc(Br)c1N(C)C(=O)C1=CCCC1.[Pd]", "products": "Cc1cc(F)c[c]([Pd][Br])c1N(C)C(=O)C1=CCCC1"}, {"reactants": "Cc1cc(F)c[c]([Pd][Br])c1N(C)C(=O)C1=CCCC1", "products": "Cc1cc(F)cc2c1C1(CCC[CH]1[Pd][Br])C(=O)N2C"}, {"reactants": "Cc1cc(F)cc2c1C1(CCC[CH]1[Pd][Br])C(=O)N2C", "products": "Cc1cc(F)cc2c1C1(C=CCC1)C(=O)N2C.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "CN(C(=O)C1=CCCC1)c1c(Cl)ccc(F)c1Br.[Pd]", "products": "CN(C(=O)C1=CCCC1)c1c(Cl)ccc(F)[c]1[Pd][Br]"}, {"reactants": "CN(C(=O)C1=CCCC1)c1c(Cl)ccc(F)[c]1[Pd][Br]", "products": "CN1C(=O)C2(CCC[CH]2[Pd][Br])c2c(Cl)ccc(F)c21"}, {"reactants": "CN1C(=O)C2(CCC[CH]2[Pd][Br])c2c(Cl)ccc(F)c21", "products": "CN1C(=O)C2(C=CCC2)c2c(Cl)ccc(F)c21.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "Cc1cccc(C)c1C1(O)C(=O)CC2CCC1(C)C2(C)C.[H+]", "products": "Cc1cccc(C)c1C1([OH2+])C(=O)CC2CCC1(C)C2(C)C"}, {"reactants": "Cc1cccc(C)c1C1([OH2+])C(=O)CC2CCC1(C)C2(C)C", "products": "Cc1cccc(C)c1[C+]1C(=O)CC2CCC1(C)C2(C)C.O"}, {"reactants": "Cc1cccc(C)c1[C+]1C(=O)CC2CCC1(C)C2(C)C", "products": "Cc1cccc(C)c1C12CCC(CC1=O)C(C)(C)[C+]2C"}, {"reactants": "Cc1cccc(C)c1C12CCC(CC1=O)C(C)(C)[C+]2C", "products": "CC1=C(c2c(C)cccc2C)CCC(C#[O+])C1(C)C"}, {"reactants": "CC1=C(c2c(C)cccc2C)CCC(C#[O+])C1(C)C.O", "products": "CC1=C(c2c(C)cccc2C)CCC(C(=O)[OH2+])C1(C)C"}, {"reactants": "CC1=C(c2c(C)cccc2C)CCC(C(=O)[OH2+])C1(C)C", "products": "Cc1cccc(C)c1C1CCC(C(=O)O)C(C)(C)[C+]1C"}, {"reactants": "Cc1cccc(C)c1C1CCC(C(=O)O)C(C)(C)[C+]1C", "products": "Cc1cccc(C)c1C1CCC2C(=O)[OH+]C1(C)C2(C)C"}, {"reactants": "Cc1cccc(C)c1C1CCC2C(=O)[OH+]C1(C)C2(C)C", "products": "Cc1cccc(C)c1C1CCC2C(=O)OC1(C)C2(C)C.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "CN(C(=O)C1=CCCC1)c1ccc(Cl)c(F)c1Br.[Pd]", "products": "CN(C(=O)C1=CCCC1)c1ccc(Cl)c(F)[c]1[Pd][Br]"}, {"reactants": "CN(C(=O)C1=CCCC1)c1ccc(Cl)c(F)[c]1[Pd][Br]", "products": "CN1C(=O)C2(CCC[CH]2[Pd][Br])c2ccc(Cl)c(F)c21"}, {"reactants": "CN1C(=O)C2(CCC[CH]2[Pd][Br])c2ccc(Cl)c(F)c21", "products": "CN1C(=O)C2(C=CCC2)c2ccc(Cl)c(F)c21.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "CCc1cccc(CO[C@@H]2[C@@H](OCc3ccccc3)CN3OC4(CC4)C[C@H]23)c1", "products": "CCc1cccc(CO[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)c1"}, {"reactants": "CCc1cccc(CO[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)c1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cccc(CC)c1"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cccc(CC)c1", "products": "CCc1cccc(CO[C@H]2CN3CCC(=O)C[C@H]3[C@@H]2OCc2ccccc2)c1"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "Fc1cccc(CO[C@@H]2[C@@H](OCc3ccccc3)CN3OC4(CC4)C[C@H]23)c1F", "products": "[O]C1(C[C@H]2[N]C[C@H](OCc3ccccc3)[C@H]2OCc2cccc(F)c2F)CC1"}, {"reactants": "[O]C1(C[C@H]2[N]C[C@H](OCc3ccccc3)[C@H]2OCc2cccc(F)c2F)CC1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cccc(F)c1F"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cccc(F)c1F", "products": "O=C1CCN2C[C@H](OCc3cccc(F)c3F)[C@@H](OCc3ccccc3)[C@@H]2C1"}]}
